US06677349B1
Using the general method of Example 245, 1-(4-aminobutyl)-2-pentyl-1H-imidazo[4,5-c]quinolin-4-amine (1.50 g, 4.6 mmol) was reacted with methanesulfonyl chloride (0.57 mL, 7.4 mmol) to provide 636 mg of N-[4-(4-amino-2-pentyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as an off white solid, m.p. 136.8-138.1° C. Analysis: Calculated for C20H29N5O2S: %C, 59.53; %H, 7.24; %N, 17.35; Found: %C, 59.50; %H, 7.31; %N, 16.80.

reactant | 1-(4-aminobutyl)-2-pentyl-1H-imidazo[4,5-c]quinolin-4-amine | 4.6 mmol, 1.50 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCCC | C19H27N5
reactant | methanesulfonyl chloride | 7.4 mmol, 0.57 mL | CS(=O)(=O)Cl | CH3ClO2S
product | N-[4-(4-amino-2-pentyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | 636 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CCCCC | C20H29N5O2S
